US04863931
To a cold (-40° C.) solution of N-(1,1-dimethylethyl)-3-methyl-2-pyridinecarboxamide (31.5 g; 0.16 mol) in 600 mL of dry tetrahydrofuran was added n-butyllithium in hexanes (2.5 mol; 131 mL) while the temperature was maintained at -40° C. The solution turned deep red after one equivalent was added. Sodium bromide (1.6 g) was added and the mixture was stirred for 10 min. A solution of m-chlorobenzyl-chloride (26.5 g; 0.174 mol) in 125 mL of dry tetrahydrofuran (THF) was added while the temperature was again maintained at -40° C. The reaction mixture was stirred for a further 30 min. after which water was carefully added until the color dissipated. The product was isolated by extraction into ethyl acetate which was washed with water, dried (MgSO4) and concentrated to give 53.6 g (HPLC purity 89%; yield 92%) of 3-[2-(3-chlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide as an oil. This oil may be used directly in the next step or crystallized from hexanes to give 3-[2-(3-chlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide as a white solid: m.p. 45°-46° C.; NMR (200 MHz,CDCl3)δ1.50 (s,9H), 2.96 (t,2H,J=8 Hz); 3.40 (t,2H,J=8 Hz); 7.0-7.3 (m,5H); 7.39 (dd,1H,J=8, 2 Hz); 7.98 (br s, 1H); 8.30 (dd,1H, J=4, 1 Hz); mass spectrum, m/e (rel intensity) 316M+ (19). Anal. Calcd for C18H21N2OCl: C,68.22; H,6.68; N,8.88; Cl,11.19. Found: C,68.25; H,6.59; N,8.78; Cl,11.10.

reactant | N-(1,1-dimethylethyl)-3-methyl-2-pyridinecarboxamide | 0.16 mol, 31.5 g | CC(C)(C)NC(=O)C1=NC=CC=C1C | C11H16N2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | m-chlorobenzyl-chloride | 0.174 mol, 26.5 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | water | O | H2O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
catalyst | Sodium bromide | 1.6 g | [Br-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-(3-chlorophenyl)ethyl]-N-(1,1-dimethylethyl)-2-pyridine carboxamide | 53.6 g, yield 92% | ClC=1C=C(C=CC1)CCC=1C(=NC=CC1)C(=O)NC(C)(C)C | C18H21ClN2O
